US08283353B2
4′-({4-[2-(2-hydroxy-2-methylpropyl)-4,5,6,7-tetrahydro-2H-indazol-5-yl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
A mixture of 4′-{[5-oxo-7-propyl-4-(4,5,6,7-tetrahydro-1H-indazol-5-yl)-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.36 g), sodium hydride (0.044 g) and N,N-dimethylacetamide (3 mL) was stirred at 0° C. for 5 min and then at room temperature for 20 min. 2,2-Dimethyloxirane (0.65 mL) was added, and the mixture was stirred at 120° C. for 1.5 hr. Ethyl acetate and water were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.047 g, 11%).

reactant | 4′-{[5-oxo-7-propyl-4-(4,5,6,7-tetrahydro-1H-indazol-5-yl)-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.36 g | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)C2CC=1C=NNC1CC2 | C29H27N7O
reactant | sodium hydride | 0.044 g | [H-].[Na+]
reactant | N,N-dimethylacetamide | 3 mL | CN(C(C)=O)C | C4H9NO
reactant | 2,2-Dimethyloxirane | 0.65 mL | CC1(OC1)C | C4H8O
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-({4-[2-(2-hydroxy-2-methylpropyl)-4,5,6,7-tetrahydro-2H-indazol-5-yl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.047 g, 11% | OC(CN1N=C2CCC(CC2=C1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)(C)C | C33H35N7O2
